US05187156
To an ice-cooled solution of Boc-Phe-NEtBzl (3.95 g) and anisole (4 ml) in methylene chloride (16 ml) was added TFA (16 ml). The solution was stirred for an hour at room temperature. After evaporation, addition and re-evaporation of 4N-HCl/DOX (5 ml) were repeated twice. The residue was dissolved in DMF (40 ml), and the solution was ice-cooled and neutralized with triethylamine (1.39 ml). To the solution containing H-Phe-NEtBzl obtained was added Boc-D-Trp(CHO)-OH (3.32 g), HOBT (1.35 g) and WSC.HCl (1.92 g). The solution was stirred for one and half an hour at room temperature. After evaporation and extraction with ethyl acetate. The organic layer was washed successively with water, 2% hydrochloric acid, water, 2% sodium hydrogencarbonate, water and saturated sodium chloride and dried over magnesium sulfate. The evaporated residue was subjected to column chromatography on silica gel (200 g) and eluted with a mixture of chloroform and methanol (50:1 to 20:1, gradient elution). The fractions containing the object compound were combined and evaporated. The residue were pulverized with n-hexane, collected by filtration, washed with n-hexane and dried to give Boc-D-Trp(CHO)-Phe-NEtBzl (4.47 g).

reactant | Boc-Phe-NEtBzl | 3.95 g | N([C@@H](CC1=CC=CC=C1)C(=O)N(CC)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H30N2O3
reactant | anisole | 4 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 16 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Boc-D-Trp(CHO)-OH | 3.32 g | N([C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)O)C(=O)OC(C)(C)C | C17H20N2O5
reactant | HOBT | 1.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 1.92 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
product | Boc-D-Trp(CHO)-Phe-NEtBzl | 4.47 g | N([C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(CC)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C35H40N4O5
